US05412137
To 14.7 gm of the Wittig salt prepared from 1-bromopentane and triphenylphosphine in 80 ml of tetrahydrofuran at 0° C. is added 22.5 ml of n-butyl lithium (1.6M) in hexane. The mixture is stirred for 15 minutes, and 3.8 ml of 3-bromobenzaldehyde is added. This mixture is stirred for 30 minutes; and after concentrating and diluting with ether, the solids are filtered off. Further concentration of the filtrate and chromatography over silica gel eluting with 3:2 hexane:ether yields pure 3-bromo-(1-hexenyl)benzene as a clear oil.

reactant | 1-bromopentane | BrCCCCC | C5H11Br
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butyl lithium | 1.6M, 22.5 ml | C(CCC)[Li]
reactant | 3-bromobenzaldehyde | 3.8 ml | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-bromo-(1-hexenyl)benzene | BrC=1C=C(C=CC1)C=CCCCC | C12H15Br
